US07507729B2
e) 9-Bromo-2-methoxymethyl-5-[1,2,4]triazol-1-yl-4H-1,3,3a,6-tetraaza-benzoazulene
As described for example 4e) 9-bromo-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one (12.5 g, 38.7 mmol), instead of 9-chloro-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one, was converted to the title compound (11.4 g, 79%) which was obtained as a light yellow solid. MS: m/e=373.0/375.1 [M+H]+.

reactant | 9-bromo-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one | 38.7 mmol, 12.5 g | BrC=1C=CC2=C(C3=NC(=NN3CC(N2)=O)COC)C1 | C12H11BrN4O2
reactant | 9-chloro-2-methoxymethyl-6H-1,3,3a,6-tetraaza-benzo[e]azulen-5-one | ClC=1C=CC2=C(C3=NC(=NN3CC(N2)=O)COC)C1 | C12H11ClN4O2
product | 9-Bromo-2-methoxymethyl-5-[1,2,4]triazol-1-yl-4H-1,3,3a,6-tetraaza-benzoazulene | 11.4 g, 79% | BrC1=CC2=C(N=C(CN3N=C(N=C23)COC)N2N=CN=C2)C=C1 | C14H12BrN7O
